US07888364B2
119 mg of (S)-styrene oxide was reacted with methyl 2-chloro-4-mercaptobenzoate via Procedure S to afford (S)-methyl 2-chloro-4-(2-hydroxy-2-phenylethylthio)benzoate. 230 mg of (S)-methyl-2-chloro-4-(2-hydroxy-2-phenylethylthio)benzoate was hydrolyzed via Procedure M to give (S)-2-chloro-4-(2-hydroxy-2-phenylethylthio)benzoic acid. 180 mg of (S)-2-chloro-4-(2-hydroxy-2-phenylethylthio)benzoic acid was reacted via Procedure R to give (S)-2-chloro-4-(2-hydroxy-2-phenylethylsulfonyl)benzoic acid. 60 mg of 4-chloro-3-(pyridine-2-yl)aniline was coupled to (S)-2-chloro-4-(2-hydroxy-2-phenylethylsulfonyl)benzoic acid via Procedure G. The product was purified on reverse phase HPLC to yield (S)-2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(2-hydroxy-2-phenylethylsulfonyl)benzamide. MS (Q1) 527.0 (M)+.

reactant | (S)-styrene oxide | 119 mg | C1[C@H](C2=CC=CC=C2)O1 | C8H8O
reactant | methyl 2-chloro-4-mercaptobenzoate | ClC1=C(C(=O)OC)C=CC(=C1)S | C8H7ClO2S
product | (S)-methyl 2-chloro-4-(2-hydroxy-2-phenylethylthio)benzoate | ClC1=C(C(=O)OC)C=CC(=C1)SC[C@H](C1=CC=CC=C1)O | C16H15ClO3S
